US09388189B2
a) 5-Bromo-2-ethoxy-3-nitropyridine
5-Bromo-2-chloro-3-nitropyridine (1 g, 4.21 mmol) was dissolved in EtOH (5 ml) and a solution of sodium ethoxyde (21% m/v in EtOH, 1.5 ml, 4.63 mmol) was added dropwise. Once the addition was finished, the solvent was evaporated under reduced pressure and water was added tot the residue. The reaction mixture was extracted with dichloromethane (×3). The organic phase was dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure. The resulting crude (805 mg, 77% yield) was pure enough to perform the next synthetic step. Purity: 100%

reactant | 5-Bromo-2-chloro-3-nitropyridine | 4.21 mmol, 1 g | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | sodium | [Na] | Na
reactant | EtOH | 5 ml | CCO | C2H6O
product | 5-Bromo-2-ethoxy-3-nitropyridine | 77% yield | BrC=1C=C(C(=NC1)OCC)[N+](=O)[O-] | C7H7BrN2O3
